US07462724B2
ethyl 2-({[(benzyloxy)carbonyl]amino}methyl)-1,3-thiazole-4-carboxylate
To a solution of N-benzyloxycarbonylglycine thioamide (1.49 g, 6.64 mmol) in 1,2-dimethoxyethane (25 mL) was added potassium hydrogen carbonate (2.66 g, 26.56 mmol) and ethylbromopyruvate (3.47 mL, 27.54 mmol) at −20° C. and the mixture stirred at −20° C. overnight. The mixture was filtered through a pad of celite and the filtrate was concentrated and the residue was dissolved in 1,2-dimethoxyethane. After cooling to −20° C., a solution of trifluoroacetic anhydride (2.85 mL, 20.52 mmol) and 2,6-lutidine (5.14 mL, 44.29 mmol) in 1,2-dimethoxyethane (10 mL) was added dropwise over 10 minutes. After stirring for 45 minutes, the solution was concentrated and partitioned between chloroform and water. The organic layer was concentrated and the residue was purified by flash chromatography on silica gel eluting with 60% ethyl acetate in hexanes to provide the title product (1.8 g, 85%): MS (DCI/NH3) m/z 321 (M+H)+.

reactant | N-benzyloxycarbonylglycine thioamide | 6.64 mmol, 1.49 g | C1=CC=C(C=C1)COC(=O)NCC(=S)N | C10H12N2O2S
reactant | potassium hydrogen carbonate | 26.56 mmol, 2.66 g | C(O)([O-])=O.[K+]
reactant | ethylbromopyruvate | 27.54 mmol, 3.47 mL | C(C)C(C(C(=O)[O-])=O)Br
reactant | trifluoroacetic anhydride | 20.52 mmol, 2.85 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,6-lutidine | 44.29 mmol, 5.14 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | ethyl 2-({[(benzyloxy)carbonyl]amino}methyl)-1,3-thiazole-4-carboxylate | 1.8 g, 85% | C(C1=CC=CC=C1)OC(=O)NCC=1SC=C(N1)C(=O)OCC | C15H16N2O4S
